US08492559B2
Stage 6: N,N-Dimethyl-4-(thiophen-2-yl)piperidin-4-amine bis hydrochloride
HCl gas was passed through a solution of 6 g (1 eq.) tert-butyloxycarbonyl-4-(dimethylamino)-4-(thiophen-2-yl)piperidine in 120 ml chloroform at 0° C. for 1 h. The reaction course was monitored by thin-layer chromatography (75% EtOAc/hexane). Once the conversion was complete, the solvent was removed under reduced pressure and 5.3 g (98%) of product were obtained in the form of a white solid.

reactant | HCl | Cl | ClH
reactant | tert-butyloxycarbonyl-4-(dimethylamino)-4-(thiophen-2-yl)piperidine | 6 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC=CC1)N(C)C | C16H26N2O2S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-4-(thiophen-2-yl)piperidin-4-amine bis hydrochloride | 5.3 g, 98% | Cl.Cl.CN(C1(CCNCC1)C=1SC=CC1)C | InChI=1S/C11H18N2S.2ClH/c1-13(2)11(5-7-12-8-6-11)10-4-3-9-14-10;;/h3-4,9,12H,5-8H2,1-2H3;2*1H
